US08648066B2
1-{6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-3H-imidazo[4,5-b]pyridin-2-yl}ethanol.
Prepared according to the method of example 5 by using 1-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)ethanol (reagent preparation 19) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.56 (br, 1H), 8.34 (s, 1H), 8.11 (br, 1H), 7.61 (s, 1H), 7.54 (d, 1H), 7.10 (d, 1H), 5.11 (m, 1H), 4.73 (s, 2H), 4.37 (m, 2H), 3.95 (m, 2H), 2.79 (t, 2H), 2.48 (s, 2H), 1.68 (t, 2H), 1.64 (d, 3H), 0.88 (s, 6H); MS (EI) for C27H30N6O2: 471 (MH+).

reactant | 1-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)ethanol | BrC=1C=C2C(=NC1)NC(=N2)C(C)O | C8H8BrN3O
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 1-{6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-3H-imidazo[4,5-b]pyridin-2-yl}ethanol | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)NC(=N1)C(C)O)C | C27H30N6O2
